US08497278B2
3-((2-(4-chlorophenyl)-6-fluoroimidazo[1,2-a]pyridin-3-yl)methyl)-N-hydroxy-1,2,4-oxadiazole-5-carboxamide (222)
To a solution of ethyl 3-((2-(4-chlorophenyl)-6-fluoroimidazo[1,2-a]pyridin-3-yl)methyl)-1,2,4-oxadiazole-5-carboxylate (0.125 mmol, 50.0 mg) in EtOH (10 mL) was added NH2OH.HCl (0.75 mmol, 52.1 mg) and K2CO3 (0.375 mmol, 51.8 mg) at r.t. The reaction mixture was stirred for 30 mins at r.t., and filtered. The filtrate was concentrated under reduced pressure, to give the title product (30 mg, 60.0%), as a white solid. m/e+=388 (M+H+). 1H NMR (300 MHz, in DMSO-d6): δ 12.14 (1H, D, brd, OH), δ 9.87 (1H, D, brd, NH), δ 8.69-8.68 (1H, D, dd, J=5.2, 2.4 Hz, ArH), δ 7.81-7.79 (2H, D, d, J=8.4 Hz, ArH), δ 7.74-7.71 (1H, D, dd, J=9.6, 5.2 Hz, ArH), δ 7.55-7.53 (2H, D, d, J=8.4 Hz, ArH), δ 7.47-7.41 (1H, D, m, ArH), and δ 4.73 (2H, D, s, CH2).

reactant | ethyl 3-((2-(4-chlorophenyl)-6-fluoroimidazo[1,2-a]pyridin-3-yl)methyl)-1,2,4-oxadiazole-5-carboxylate | 0.125 mmol, 50.0 mg | ClC1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)F)C1CC1=NOC(=N1)C(=O)OCC | C19H14ClFN4O3
reactant | NH2OH.HCl | 0.75 mmol, 52.1 mg | NO.Cl
reactant | K2CO3 | 0.375 mmol, 51.8 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOH | 10 mL | CCO | C2H6O
product | 3-((2-(4-chlorophenyl)-6-fluoroimidazo[1,2-a]pyridin-3-yl)methyl)-N-hydroxy-1,2,4-oxadiazole-5-carboxamide | 30 mg, 60.0% | ClC1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)F)C1CC1=NOC(=N1)C(=O)NO | C17H11ClFN5O3
